US06982274B2
(5-Bromo-2,4-difluoro-phenyl)-(3-fluoro-phenyl)-methanol
A total of 2.02 g of 1,5-dibromo-2,4-difluorobenzene obtained in Production Example II-5-a was dissolved in 38 ml of diethyl ether, and 4.9 ml of a 1.58 M solution of n-butyllithium in hexane was added under stirring at −70° C. After stirring for 1 hour, 4.9ml of m-fluorobenzaldehyde was added and the mixture was stirred for 15 minutes. Saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extracting with ethyl acetate. The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:10), to give 0.96 g of the title compound.

reactant | 1,5-dibromo-2,4-difluorobenzene | 2.02 g | BrC1=C(C=C(C(=C1)Br)F)F | C6H2Br2F2
reactant | n-butyllithium | C(CCC)[Li]
reactant | m-fluorobenzaldehyde | 4.9ml | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 38 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | (5-Bromo-2,4-difluoro-phenyl)-(3-fluoro-phenyl)-methanol | 0.96 g | BrC=1C(=CC(=C(C1)C(O)C1=CC(=CC=C1)F)F)F | C13H8BrF3O
